US07692016B2
Preparation of 4,6-Dimethylquinoline
To a stirred solution of 4-methylaniline (1 g. 9.3 mmol.) in acetic acid (10 ml), activated silferc (1.5 g. ferric chloride 9.3 mmol) was added under nitrogen atmosphere. The reaction mixture was stirred for 5 minutes and methyl vinyl ketone (MVK) (0.72 g, 10 mmol) was added slowly over a period of 15 minutes. The reaction mixture was heated to 70° C. and maintained between 70-75° C. for one hour. Anhydrous zinc chloride (1.27 g. 9.3 mmol) was added and the reaction was further refluxed for two hours. The reaction mixture was cooled, filtered, basified with 10% NaOH solution, extracted with ethyl acetate (3×20 ml), dried over Na2SO4 and evaporated to give the product; Yield 60%.

reactant | 4-methylaniline | 9.3 mmol, 1 g | CC1=CC=C(N)C=C1 | C7H9N
reactant | methyl vinyl ketone | 10 mmol, 0.72 g | C(=C)C(=O)C | C4H6O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | zinc chloride | 9.3 mmol, 1.27 g | [Cl-].[Zn+2].[Cl-]
product | 4,6-Dimethylquinoline | Yield 60% | CC1=CC=NC2=CC=C(C=C12)C | C11H11N
